US07459451B2
A mixture of benzoylacetonitrile (365 mg), tetrahydropyran-4-carbaldehyde (287 mg), 5-amino-1-methylpyrazole (289 mg) in pyridine (7.3 ml) was stirred for 2 days at 110° C. The solvent was removed under reduced pressure. The residue was purified with silica gel column chromatography to give pure 1-ethyl-6-phenyl-4-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile (359 mg).

reactant | benzoylacetonitrile | 365 mg | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | tetrahydropyran-4-carbaldehyde | 287 mg | O1CCC(CC1)C=O | C6H10O2
reactant | 5-amino-1-methylpyrazole | 289 mg | NC1=CC=NN1C | C4H7N3
reactant | pyridine | 7.3 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-6-phenyl-4-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile | 359 mg | C(C)N1N=CC=2C1=NC(=C(C2C2CCOCC2)C#N)C2=CC=CC=C2 | C20H20N4O
